US06204264B1
(2) 3-Chloro-N2-[3-(dimethylamino)propyl]-1,2-benzenediamine
A solution containing tin(II) chloride dihydrate (4.040 g) in concentrated hydrochloric acid (5.85 ml) was added to a solution containing N1-(2-chloro-6-nitrophenyl)-N3,N3-dimethyl-1,3-propanediamine (1.289 g) in concentrated hydrochloric acid (4.2 ml) and the mixture was stirred for 14 hours at room temperature. The reaction mixture was alkalified with 10% sodium hydroxide aqueous solution while being cooled with ice and extracted with diethyl ether. The extract was washed with saturated brine, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (1.130 g) as orange solid.

reactant | tin(II) chloride dihydrate | 4.040 g | O.O.[Sn](Cl)Cl
reactant | N1-(2-chloro-6-nitrophenyl)-N3,N3-dimethyl-1,3-propanediamine | 1.289 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])NCCCN(C)C | C11H16ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 5.85 ml | Cl | ClH
solvent | hydrochloric acid | 4.2 ml | Cl | ClH
product | 3-Chloro-N2-[3-(dimethylamino)propyl]-1,2-benzenediamine | 1.130 g | ClC1=C(C(=CC=C1)N)NCCCN(C)C | C11H18ClN3
